US03953496
A mixture of 3.32 g of methyl 2,5-diaminobenzoate, 5.8 ml of triethylamine and 20 ml of tetrahydrofuran was added dropwise to a solution of 8.7 g of 2-acetoxybenzoylchloride in 150 ml of tetrahydrofuran over 30 minutes, while stirring at 5° - 10°C. After completion of the addition, the reaction mixture was stirred at room temperature for 1 hour and then poured into 500 ml of ice-water to precipitate crystals. The crystals were recovered by filtration, washed with water and dried in air. Recrystallization from ethyl acetate gave 8.1 g of methyl 2,5-bis(2'-acetoxybenzamido)-benzoate having a melting point between 170° - 171°C.

reactant | methyl 2,5-diaminobenzoate | 3.32 g | NC1=C(C(=O)OC)C=C(C=C1)N | C8H10N2O2
reactant | triethylamine | 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-acetoxybenzoylchloride | 8.7 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 2,5-bis(2'-acetoxybenzamido)-benzoate | 8.1 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=C(C=C2)NC(C2=C(C=CC=C2)OC(C)=O)=O)C=CC=C1 | C26H22N2O8
